US03931226
10-(m-Chlorophenyl)-2,3,4,10-tetrahydropyrimido[1,2-a]indol-10-ol
2-Amino-3-(m-chlorophenyl)-3H-indol-3-ol hydrochloride (2.3 g) is converted to its oily base then heated under reflux in ethanol (10 ml) with 1,3-dibromopropane (1.55 g) for 20 hours. On cooling the title compound is obtained as its hydrobromide, m.p. 270°-273°C (decomp.).

reactant | 2-Amino-3-(m-chlorophenyl)-3H-indol-3-ol hydrochloride | 2.3 g | Cl.NC1=NC2=CC=CC=C2C1(O)C1=CC(=CC=C1)Cl
reactant | 1,3-dibromopropane | 1.55 g | BrCCCBr | C3H6Br2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 10-(m-Chlorophenyl)-2,3,4,10-tetrahydropyrimido[1,2-a]indol-10-ol | ClC=1C=C(C=CC1)C1(C=2N(C=3C=CC=CC13)CCCN2)O | C17H15ClN2O
